US06211244B1
In a similar fashion, an equal molar amount of (R)-1-(3-methoxyphenyl)ethylamine, trans-4-phenyl-3-butene-2-one and 1.25 molar equivalents titanium(IV) isopropoxide were mixed 4 hr at rt and the intermediate imine treated with an ethanolic sodium cyanoborohydride (5 ml of 1 M, 5 mmol). Work-up and chromatography afforded (R,R)-N-(2-methyl-4-phenybut-3-enyl)-1-(3-methoxyphenyl)ethylamine, 25H, as an oil; m/z (rel. int.) 283 (M+, 4), 268 (13), 178 (40), 135 (100), 105 (15), 91 (47), 77 (13) and (S,R)-N-(2-methyl-4-phenybut-3-enyl)-1-(3-methoxyphenyl)ethylamine, 25I, as an oil; m/z (rel. int.) 283 (M+, 4), 268 (13), 178 (40), 135 (100), 105 (15), 91 (47), 77 (13).

reactant | (R)-1-(3-methoxyphenyl)ethylamine | COC=1C=C(C=CC1)[C@@H](C)N | C9H13NO
reactant | trans-4-phenyl-3-butene-2-one | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
reactant | sodium cyanoborohydride | 5 mmol, 1 M, 5 ml | C(#N)[BH3-].[Na+]
catalyst | titanium(IV) isopropoxide | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (R,R)-N-(2-methyl-4-phenybut-3-enyl)-1-(3-methoxyphenyl)ethylamine | C[C@@H](CN[C@H](C)C1=CC(=CC=C1)OC)C=CC1=CC=CC=C1 | C20H25NO
